US04551448
(d) 4-(2-Bromo-1,1,2-trifluoroethoxy)-phenol
40 g of 4-(2-bromo-1,1,2-trifluoroethoxy)-aniline were added dropwise, at 10° C., to 400 ml of 2.5N sulfuric acid, after which 11 g of sodium nitrite in 30 ml of water were added dropwise at 0° C., and the mixture was stirred for a further hour at 10° C.

reactant | 4-(2-bromo-1,1,2-trifluoroethoxy)-aniline | 40 g | BrC(C(OC1=CC=C(N)C=C1)(F)F)F | C8H7BrF3NO
reactant | sulfuric acid | 2.5N, 400 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 11 g | N(=O)[O-].[Na+]
solvent | water | 30 ml | O | H2O
product | 4-(2-Bromo-1,1,2-trifluoroethoxy)-phenol | BrC(C(OC1=CC=C(C=C1)O)(F)F)F | C8H6BrF3O2
